US07964618B2
A solution of 2,6-dichloronicotinoyl chloride (4.21 g, 20 mmol) in DCM (20 mL) was added dropwise to a stirred suspension of 1-aminoadamantane (3.03 g, 20 mmol) and N-ethyldiisopropylamine (4.19 mL, 24 mmol) in DCM (20 mL) at 0° C., over a period of 30 minutes under nitrogen. The resulting suspension was stirred at room temperature for 18 hours. The reaction mixture was diluted with EtOAc (500 mL), and washed sequentially with water (100 mL) and saturated brine (50 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 5% Et2O in DCM. Pure fractions were evaporated to dryness to afford N-adamantan-1-yl-2,6-dichloronicotinamide (5.57 g, 76%) as a white solid.

reactant | 2,6-dichloronicotinoyl chloride | 20 mmol, 4.21 g | ClC1=C(C(=O)Cl)C=CC(=N1)Cl | C6H2Cl3NO
reactant | 1-aminoadamantane | 20 mmol, 3.03 g | NC12CC3CC(CC(C1)C3)C2 | C10H17N
reactant | N-ethyldiisopropylamine | 24 mmol, 4.19 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | N-adamantan-1-yl-2,6-dichloronicotinamide | 5.57 g, 76% | C12(CC3CC(CC(C1)C3)C2)NC(C2=C(N=C(C=C2)Cl)Cl)=O | C16H18Cl2N2O
